US07687495B2
e) [(S)-4-(4-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1,2,3,6-tetrahydro-pyridin-2-yl]-methanol
To a solution of 72.0 g of [(S)-4-(4-methoxy-phenyl)-1,2,3,6-tetrahydro-pyridin-2-yl]-methanol in 1.5 l of ethyl acetate and 1.5 l of 2N aqueous sodium carbonate are added 57.7 g of p-toluenesulfonyl chloride at 0° C. The reaction mixture is stirred overnight, extracted with ethyl acetate and the combined organic phases are dried over sodium sulfate and concentrated under reduced pressure. The crude product is used for the next step without any further purification. Rf=0.1 (EtOAc-heptane 1:1); Rt=4.20.

reactant | [(S)-4-(4-methoxy-phenyl)-1,2,3,6-tetrahydro-pyridin-2-yl]-methanol | 72.0 g | COC1=CC=C(C=C1)C=1C[C@H](NCC1)CO | C13H17NO2
reactant | p-toluenesulfonyl chloride | 57.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | ethyl acetate | 1.5 l | C(C)(=O)OCC | C4H8O2
solvent | sodium carbonate | 2N, 1.5 l | C([O-])([O-])=O.[Na+].[Na+]
product | [(S)-4-(4-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1,2,3,6-tetrahydro-pyridin-2-yl]-methanol | COC1=CC=C(C=C1)C=1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)C)CO | C20H23NO4S
